US07855202B2
5-Tributylstannanyl-2-triisopropylsilanyl-oxazole
tert-BuLi (1.7M in n-pentane, 8.4 mL, 14.3 mmol) was added dropwise over (approximately) 30 minutes to a stirred solution of 2-triisopropylsilyloxazole (3 g, 13 mmol) in tetrahydrofuran (75 mL) at −78° C. under argon. The solution was allowed to stir for 20 minutes at −78° C. and tributyltin chloride (5.2 mL, 19.5 mmol) was then added over 20 minutes. The reaction mixture was warmed to room temperature and stirred for an additional 16 hours. The reaction was diluted with ethyl acetate, washed with water and the organic layer was dried (MgSO4) and concentrated under reduced pressure. The crude product was dissolved in n-pentane, filtered through Celite® and the solvent evaporated to give the title compound in quantitative yield as a pale-yellow oily residue, which was used without further purification in the next step.

reactant | tert-BuLi | 14.3 mmol, 1.7M, 8.4 mL | [Li]C(C)(C)C
reactant | 2-triisopropylsilyloxazole | 13 mmol, 3 g | C(C)(C)[Si](C=1OC=CN1)(C(C)C)C(C)C | C12H23NOSi
reactant | tributyltin chloride | 19.5 mmol, 5.2 mL | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Tributylstannanyl-2-triisopropylsilanyl-oxazole | quantitative yield | C(CCC)[Sn](C1=CN=C(O1)[Si](C(C)C)(C(C)C)C(C)C)(CCCC)CCCC | InChI=1S/C12H22NOSi.3C4H9.Sn/c1-9(2)15(10(3)4,11(5)6)12-13-7-8-14-12;3*1-3-4-2;/h7,9-11H,1-6H3;3*1,3-4H2,2H3;
